US07524845B2
Synthesis of 1-[4-(4-chloro-3-methoxy-phenyl)-piperazin-1-yl]-2-[3-(oxazole-2yl)-pyrazolo[3,4-b]pyridine-2-yl]-ethanone:
To a mixture of 1-[4-(4-chloro-3-methoxy-phenyl)-piperazin-1-yl]-2-(3-iodo-pyrazolo[3,4-b]pyridine-2-yl)-ethanone (0.071 mmol, 1 eq.) and tetrakis triphenylphosphine palladium (0.025 mmol, 0.35 eq.) under nitrogen atmosphere was added 0.5 mL of THF and 2-oxazole-(tri-n-butyl)Tin (0.48 mmol, 6.7 eq.). The resultant mixture was heated in a sealed tube at 80° C. for 48 h. The reaction solution was cooled to rt, diluted with 30 mL of NH4Cl sat. aq. solution, and extracted with 300 mL of EtOAc. The organic layer was separated, washed with brine, dried over sodium sulfate, filtered and concentrated in vacuo. The crude residue was purified by silica gel chromatography (0% to 15% MeOH in EtOAc) to provide 12.3 mg the title compound: 1H NMR (400 MHz, CDCl3) δ 8.77 (dd, 1H), 8.51(dd, 1H), 7.8-1 (d; 1H), 7.22 (m, 3H), 6.52(d, 1H), 6.48 (dd, 1H), 6.01 (s, 2H), 3.90(s, 3H), 3.80 (m, 4H), 3.27 (m, 4H). LCMS observed for (M+H)+: 453.5.

reactant | 1-[4-(4-chloro-3-methoxy-phenyl)-piperazin-1-yl]-2-(3-iodo-pyrazolo[3,4-b]pyridine-2-yl)-ethanone | 0.071 mmol, 1 eq. | ClC1=C(C=C(C=C1)N1CCN(CC1)C(CN1N=C2N=CC=CC2=C1I)=O)OC | C19H19ClIN5O2
reactant | THF | 0.5 mL | C1CCOC1 | C4H8O
reactant | NH4Cl | 30 mL | [NH4+].[Cl-]
product | 1-[4-(4-chloro-3-methoxy-phenyl)-piperazin-1-yl]-2-[3-(oxazole-2yl)-pyrazolo[3,4-b]pyridine-2-yl]-ethanone | 12.3 mg | ClC1=C(C=C(C=C1)N1CCN(CC1)C(CN1N=C2N=CC=CC2=C1C=1OC=CN1)=O)OC | C22H21ClN6O3
